US04130657
Potassium hydroxide (2.0 g, 0.032 mole) was dissolved in 7 ml of water. To this solution was added 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid (6.6 g, 0.032 mole), which may be prepared according to the method of Farkas, et al., loc. cit. After dissolution, 100 ml of heptane was added, and the mixture was heated under reflux using a DeanStarke trap to remove the water from the mixture. The dry mixture was then cooled to 60°, and a solution of 3-bromomethylbiphenyl (7.5 g, 0.032 mole) and 0.1 g of 1,4-diazabicyclo[2.2.2]octane in 60 ml of acetonitrile was added. 3-Bromomethylbiphenyl may be prepared according to the method of M. Gomberg and J. C. Pernert, J. Am. Chem. Soc., 48, 1372 (1926) and H. O. Huisman, et al., Rec. Trav. Chim., 71, 899 (1951). The mixture was then heated under reflux for 5.5 hours. After cooling to room temperature, the reaction mixture was contacted with 100 g of ice in a separatory funnel, and when the ice had melted the phases were separated. The aqueous phase was saturated with sodium chloride before being extracted twice with 100 ml portions of heptane. The heptane extracts and the organic phase were combined, and the combined organic phase was washed with one 200 ml portion of a saturated sodium chloride solution. The solvent was removed from the organic phase using a rotary evaporator, leaving an oily, straw-colored residue weighing 9.9 g. The oil was distilled in a short path, air-bath heated Kugelrohr distillation apparatus at a pressure of 0.25 mm. After removing low boilers from the oil at a temperature below 145°, [1,1'-biphenyl]-3-ylmethyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate (6.5 g, 54.4% yield) was obtained at a temperature of 165°-175°.

reactant | Potassium hydroxide | 0.032 mole, 2.0 g | [OH-].[K+]
reactant | 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.032 mole, 6.6 g | ClC(=CC1C(C1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | heptane | 100 ml | CCCCCCC | C7H16
reactant | 3-bromomethylbiphenyl | 0.032 mole, 7.5 g | BrCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Br
solvent | water | 7 ml | O | H2O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
catalyst | 1,4-diazabicyclo[2.2.2]octane | 0.1 g | N12CCN(CC1)CC2 | C6H12N2
product | [1,1'-biphenyl]-3-ylmethyl 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 6.5 g, 54.4% yield | ClC(=CC1C(C1C(=O)OCC=1C=C(C=CC1)C1=CC=CC=C1)(C)C)Cl | C21H20Cl2O2
